US07538239B2
2-(2-(2-mesitylenesulfonyl)aminophenyl)-3-methyl-2-cyclopenten-1-one
0.500 g (2.67 mmol) of 2-(2-aminophenyl)-3-methyl-2-cyclopenten-1-one, 0.253 g (3.204 mmol) of pyridine, 0.584 g (2.67 mmol) of 2-mesitylenesulfonyl chloride), and 2 mL of M.C (methylene chloride) were loaded to a 20 mL vial, and then reacted for 12 hours. 10 mL of M.C and 4 mL of 2 N HCl were added to the reaction product. The resultant organic layer is collected and then dried over MgSO4 to remove water. The solvent contained in the dried product was removed using a rotary vacuum evaporator. The obtained solid was washed with 10 mL of diethyl ether and filtered using a glass filter. The filtered product was dried in vacuum to remove the solvent that had remained therein (0.790 g, 80%).

reactant | 2-(2-aminophenyl)-3-methyl-2-cyclopenten-1-one | 2.67 mmol, 0.500 g | NC1=C(C=CC=C1)C=1C(CCC1C)=O | C12H13NO
reactant | pyridine | 3.204 mmol, 0.253 g | N1=CC=CC=C1 | C5H5N
reactant | 2-mesitylenesulfonyl chloride | 2.67 mmol, 0.584 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
reactant | HCl | 2 N, 4 mL | Cl | ClH
solvent | M.C | 10 mL | C(Cl)Cl | CH2Cl2
solvent | M.C | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-(2-mesitylenesulfonyl)aminophenyl)-3-methyl-2-cyclopenten-1-one | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)NC1=C(C=CC=C1)C=1C(CCC1C)=O)C | C21H23NO3S
